US04540583
Preparation of 1,4-bis(2-methylaminoethylamino)anthraquinone
A mixture of 2.4 g. of leuco-quinizarin and 25 g. of de-aerated N-methylethylenediamine is heated at 50° C. with stirring under nitrogen for one hour. Heating at 50° C. is continued as air is bubbled into the mixture for 40 minutes. The mixture is evaporated to dryness, then re-evaporated twice from 25 ml. portions of ethanol. Crystallization of the residue from ethanol-ether at -70° C. gives 2.32 g. of crude solid which is recrystallized twice from carbon tetrachloride giving 1.92 g. of the desired product as dark blue crystals, mp. 131°-132° C.

reactant | leuco-quinizarin | C1=CC=C2C(=C1)C(=C3C(=CC=C(C3=C2O)O)O)O | C14H10O4
reactant | N-methylethylenediamine | CNCCN | C3H10N2
product | 1,4-bis(2-methylaminoethylamino)anthraquinone | CNCCNC1=CC=C(C=2C(C3=CC=CC=C3C(C12)=O)=O)NCCNC | C20H24N4O2
